US06303593B1
1-Benzyl-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine (RR)-stereoisomer of Example 5.
To a solution of 1.0 g (16.4 mmol) of 1-benzyl-3-(S)-formyl-4-(R)-(3-thienyl)pyrrolidine and 2.94 g (23.4 mmol) of 4-(4-fluorophenyl)piperidine in 50 mL of 1,2-dichlorethane was added 4.96 g (23.4 mmol) of sodium triacetoxyborohydride and the solution was stirred at rt for 16 h. The reaction was poured into 50 mL of saturated NaHCO3 solution and the mixture was extracted with CH2Cl2. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by chromatography (silica, acetone:hexanes, 1:3) to afford the title compound. 1H NMR (CDCl3) δ6.97-7.10 (m, 4H), 3.72 (d, 1H, J=13.1 hz), 3.64 (d, 1H, J=13.0 Hz), 3.11-3.14 (m, 1H); Mass Spectrum (ESI) m/e 435 (M+1); [α]D=−13.3 (c.=0.06, CHCl3)

reactant | 1-benzyl-3-(S)-formyl-4-(R)-(3-thienyl)pyrrolidine | 16.4 mmol, 1.0 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CSC=C1)C=O | C16H17NOS
reactant | 4-(4-fluorophenyl)piperidine | 23.4 mmol, 2.94 g | FC1=CC=C(C=C1)C1CCNCC1 | C11H14FN
reactant | sodium triacetoxyborohydride | 23.4 mmol, 4.96 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichlorethane | 50 mL | ClCCCl | C2H4Cl2
product | 1-Benzyl-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CSC=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C27H31FN2S
